US05175157
2-[(N-(3-(3,5-Dimethoxy-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(3,5-dimethoxy-phenoxy)-propane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C17H24N2O3
reactant | 1-chloro-3-(3,5-dimethoxy-phenoxy)-propane | ClCCCOC1=CC(=CC(=C1)OC)OC | C11H15ClO3
product | 2-[(N-(3-(3,5-Dimethoxy-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.COC=1C=C(OCCCN2CC(CCC2)CN2C(C3=CC(=C(C=C3CC2)OC)OC)=O)C=C(C1)OC | InChI=1S/C28H38N2O6.ClH/c1-32-22-14-23(33-2)16-24(15-22)36-12-6-10-29-9-5-7-20(18-29)19-30-11-8-21-13-26(34-3)27(35-4)17-25(21)28(30)31;/h13-17,20H,5-12,18-19H2,1-4H3;1H
